US03993637
Preparation of N-cyclohexylpivaloylacetamide.
Ethylpivaloylacetate (172 g.), cyclohexylamine (99 g.), triethanolamine (1 g.) and toluene (200 ml.) are mixed in a distillation flask and heated at reflux under a 6 in. Vigreux distillation column. When the head temperature stabilized at 82° C. distillation was begun at a take off to reflux ratio of 1 to 10. Distillation was continued until a head temperature of 110° C. is obtained. The remainder of the solvent is removed in a vacuum and residue is crystallized by trituation with hexane. A yield of 201 g. of product melting at 69°-70° C. is obtained.

reactant | Ethylpivaloylacetate | 172 g | C(C)OC(CC(C(C)(C)C)=O)=O | C9H16O3
reactant | cyclohexylamine | 99 g | C1(CCCCC1)N | C6H13N
reactant | triethanolamine | 1 g | N(CCO)(CCO)CCO | C6H15NO3
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N-cyclohexylpivaloylacetamide | C1(CCCCC1)NC(CC(C(C)(C)C)=O)=O | C13H23NO2
